US04942170
2-Methyl-3-(2-amidinohydrazono)butyl-1,4-naphthoquinone hydrochloride, mp 108°-110° C. is prepared in a manner similar to that of Example 1 by reaction of aminoguanidine hydrochloride with 2-methyl-3-(3-oxobutyl)-1,4-naphthoquinone. This naphthoquinone is prepared by reaction of 2-methyl-1,4-naphthoquinone, 4-oxopentanoic acid, silver nitrate and ammonium peroxydisulfide in a manner similar to that described above.

reactant | aminoguanidine hydrochloride | C(=N)(N)NN.Cl
reactant | 2-methyl-3-(3-oxobutyl)-1,4-naphthoquinone | CC=1C(C2=CC=CC=C2C(C1CCC(C)=O)=O)=O | C15H14O3
reactant | 2-methyl-1,4-naphthoquinone | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | 4-oxopentanoic acid | O=C(CCC(=O)O)C | C5H8O3
reactant | ammonium peroxydisulfide | O1OSS1.[NH4+]
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | 2-Methyl-3-(2-amidinohydrazono)butyl-1,4-naphthoquinone hydrochloride | Cl.CC=1C(C2=CC=CC=C2C(C1CCC(C)=NNC(N)=N)=O)=O | InChI=1S/C16H18N4O2.ClH/c1-9(19-20-16(17)18)7-8-11-10(2)14(21)12-5-3-4-6-13(12)15(11)22;/h3-6H,7-8H2,1-2H3,(H4,17,18,20);1H
